US04906397
B. Preparation of DIVEMA Copolymer
Copolymerization of the divinyl ether with maleic anhydride was by the method disclosed in Butler, G. B., J. Macromol. Sci.-Chem., A5(1) 219-227 (1971), at page 222-23. The crude product contained 0.64% residual maleic anhydride.

reactant | divinyl ether | C(=C)OC=C | C4H6O
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
product | DIVEMA | C=COC=C.C1=CC(=O)OC1=O | InChI=1S/C4H2O3.C4H6O/c5-3-1-2-4(6)7-3;1-3-5-4-2/h1-2H;3-4H,1-2H2
